US07276603B2
8-{4-[2-(5-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-methoxy-quinoline was prepared by generally following the procedure outlined in example 21, step 6, starting from 2-(5-methoxy-1-benzofuran-3-yl)ethyl iodide (301 mg, 1 mmol) and 6-methoxyl-8-piperazino quinoline (243 mg, 1 mmol). The product was purified by silica-gel column chromatography by eluting it initially with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yielding a brown oil. Yield: 90 mg, (21%); (M+H): 418; 1HNMR (400 MHZ, CDCl3): δ 8.73˜8.71 (dd, J1=1.7 Hz, J2=1.7 Hz, 1H) 8.03˜8.00 (dd, J1=1.7 Hz, J2=1.7 Hz, 1H), 7.50˜6.71 (m, 7H); 3.91 (s, 3H), 3.87 (s, 3H), 3.55˜2.82 (12H).

reactant | 2-(5-methoxy-1-benzofuran-3-yl)ethyl iodide | 1 mmol, 301 mg | COC=1C=CC2=C(C(=CO2)CCI)C1 | C11H11IO2
reactant | 6-methoxyl-8-piperazino quinoline | 1 mmol, 243 mg | O(C)C=1C=C2C=CC=NC2=C(C1)N1CCNCC1 | C14H17N3O
product | 8-{4-[2-(5-methoxy-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-methoxy-quinoline | COC=1C=CC2=C(C(=CO2)CCN2CCN(CC2)C=2C=C(C=C3C=CC=NC23)OC)C1 | C25H27N3O3
